US07713994B2
To a solution of propyl 5-formyl-2-propoxybenzoate (1.0 g, 4.0 mmol) in tetrahydrofuran/methanol/water (20 mL: 20 mL: 8 mL) is added 5 N sodium hydroxide solution (2 mL, 10 mmol). The mixture is heated in a 70° C. oil bath for three hours and then allowed to cool to room temperature. While acidifying to pH 1 with concentrated hydrochloric acid, a white solid precipitated, which is collected and discarded. The filtrate is concentrated under reduced pressure, and the solid residue is collected by filtration and washed with water to give 5-formyl-2-propoxybenzoic acid as flocculent white needles (0.79 g, 95%).

reactant | propyl 5-formyl-2-propoxybenzoate | 4.0 mmol, 1.0 g | C(=O)C=1C=CC(=C(C(=O)OCCC)C1)OCCC | C14H18O4
reactant | sodium hydroxide | 10 mmol, 5 N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran methanol water | 20 mL | O1CCCC1.CO.O
product | 5-formyl-2-propoxybenzoic acid | 0.79 g, 95% | C(=O)C=1C=CC(=C(C(=O)O)C1)OCCC | C11H12O4
